data/mechanism_extracts/EurJOC/10.1002_ejoc.202101189.json
{"doi": "10.1002_ejoc.202101189", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular halo-amination (iodo- and bromo-) of unactivated N-alkenyl sulfonamides to give 3-, 5-, and 6-membered halogenated N-heterocycles using LiI or LiBr as halide source and redox mediator.", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of iodide (or bromide) to molecular I2 (Br2), which acts as the halogen-transfer mediator; the sulfonamide substrate itself is not oxidized at the anode (confirmed by CV). Cathode reduces protons to H2.", "key_intermediates": [{"name": "molecular I2 generated in situ from anodic oxidation of I-", "smiles": "II", "role": "reactive"}, {"name": "cyclic iodonium ion from alkene + I2 (intermediate I)", "smiles": null, "role": "transient"}, {"name": "N-heterocycle product (e.g., 2-(iodomethyl)-N-tosylpyrrolidine 2a)", "smiles": "O=S(=O)(c1ccc(C)cc1)N2CCCC2CI", "role": "reactive"}], "electron_flow": "Anode oxidizes I- to I2; I2 reacts with the pendant alkene to form an iodonium ion, which undergoes intramolecular nucleophilic attack by the sulfonamide nitrogen to give the halogenated N-heterocycle with loss of H+; protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction almost completely inhibited by 2.0 equiv TEMPO; starting material decomposed to 4-methylbenzenesulfonamide (detected by GC-MS); only trace 2a formed. Authors note this may reflect a radical pathway OR suppression via TEMPO-iodine adduct formation."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_TEMPO"], "evidence_strength": "medium", "notes": "CV shows two oxidation peaks for LiI (0.89 and 1.57 V vs Ag/AgCl) while sulfonamide 1a shows no anodic oxidation in the operating window, supporting iodide-mediator (not direct substrate oxidation) pathway. Authors favor an ionic iodonium/nucleophilic cyclization mechanism (Scheme 3), but acknowledge the TEMPO inhibition could alternatively implicate a radical pathway; they attribute it to TEMPO–I adduct formation rather than C-radical trapping."}
